US08791132B2
To a solution of 2-(8-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol (100 mg, 0.325 mmol) in acetonitrile (3 mL), potassium carbonate (135 mg, 0.977 mmol) and 2-bromoethanol (61 mg, 0.488 mmol) were added and the reaction mixture stirred at 60° C. for 1 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was diluted with water (10 mL) and extracted with EtOAc (3×20 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by reverse phase HPLC to yield 2-[2-(2-hydroxy-ethyl)-8-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl]-1-pyridin-4-yl-ethanol. 1H NMR (CD3OD, formate salt) δ (ppm): 8.41 (d, 2H), 7.38 (d, 2H), 7.2 (m, 2H), 6.99 (d, 1H), 5.03 (t, 1H), 4.4 (bs, 2H), 4.3 (d, 2H), 3.93 (t, 2H), 3.45-3.62 (m, 2H), 3.2 (m, 2H), 2.9 (m, 2H), 2.4 (s, 3H). Separation by chiral HPLC provides enantiomers II-64a-b.

reactant | 2-(8-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-pyridin-4-yl-ethanol | 0.325 mmol, 100 mg | CC1=CC=2C3=C(N(C2C=C1)CC(O)C1=CC=NC=C1)CCNC3 | C19H21N3O
reactant | potassium carbonate | 0.977 mmol, 135 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 0.488 mmol, 61 mg | BrCCO | C2H5BrO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
product | 2-[2-(2-hydroxy-ethyl)-8-methyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl]-1-pyridin-4-yl-ethanol | OCCN1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C2=CC=NC=C2)CC1 | C21H25N3O2
